US06180627B2
[(2R)-1-Cyclohexylpyrrolidinyl]methylamine
Lithium aluminum hydride (7.3 ml, 1M in tetrahydrofuran, 7.3 mmol) was added dropwise to a solution of (2R)-1-cyclohexyl-2-pyrrolidinecarboxamide (preparation 147) (950 mg, 4.85 mmol) in tetrahydrofuran (15 ml) and once addition was complete, the reaction was heated under reflux for 20 hrs. The cooled mixture was carefully quenched with water, and extracted with ethyl acetate. The combined organic extracts were then dried over MgSO4 and evaporated under reduced pressure. The residue was suspended in dichloromethane, filtered through Whatman® fibre and the filtrate evaporated under reduced pressure to give the desired product as an oil (849 mg, 96%).

reactant | Lithium aluminum hydride | 7.3 mmol, 1M, 7.3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2R)-1-cyclohexyl-2-pyrrolidinecarboxamide | 4.85 mmol, 950 mg | C1(CCCCC1)N1[C@H](CCC1)C(=O)N | C11H20N2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | [(2R)-1-Cyclohexylpyrrolidinyl]methylamine | 849 mg, 96% | C1(CCCCC1)N1[C@H](CCC1)CN | C11H22N2
